US08563575B2
A solution of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (20.4 g, 96.55 mmol) in DMA (117 mL) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (26.0 g, 96.55 mmol) and potassium tert-butoxide (11.4 g) in DMA (96 mL) at room temperature. The mixture was stirred at 95-100° C. for 1.5 h. Water (221 ml) was added at 80-100° C. The precipitate was collected at room temperature and dried over under reduced pressure to give 1-ethyl-7-methyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (35.8 g) as crude product. The obtained crude 1-ethyl-7-methyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (10.0 g) was dissolved in DMSO (150 ml) at 90-100° C. The solution was filtered through filter paper and washed with DMSO (10 mL). The combined filtrate was slowly added to a mixture of crystals (Form G: 100 mg) obtained in 120p) (as seed crystals) in AcOEt (100 ml) at 5-30° C. After stirring at room temperature for 17 h, the mixture was stirred at 70° C. for 1 h. The mixture was gradually cooled to 25° C. and stirred for 2 h. The mixture was stirred at 0-10° C. for 1 h and at room temperature for 1 h. The solids were collected by filtration and dried at 50° C. under reduced pressure to give 1-ethyl-7-methyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (8.0 g) as white crystals (Form G).

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 96.55 mmol, 20.4 g | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 96.55 mmol, 26.0 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O)=O | C15H15N3O2
reactant | potassium tert-butoxide | 11.4 g | CC(C)([O-])C.[K+]
reactant | Water | 221 ml | O | H2O
solvent | DMA | 117 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 96 mL | CC(=O)N(C)C | C4H9NO
product | 1-ethyl-7-methyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 35.8 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C22H20N6O2
